2128-03-11 06:13:00 Physician Resident Progress Note
Chief Complaint: BRBPR
   24 Hour Events:
   Received 2 units of blood after arrival to floor
   Given 40mg IV Lasix x 2 with each transfusion
   At 3:30AM, c/o SOB with mild CP:
 EKG - At [**2128-3-11**] 03:53 AM
   no acute changes
   resolved with 2 sL nitro tabs, 5mg IV metoprolol
   Allergies:
   Penicillins
   faciall swellin
   Sulfa (Sulfonamides)
   Rash;
   Ciprofloxacin
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-3-11**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 79 (60 - 88) bpm
   BP: 148/93(105){99/59(68) - 162/100(115)} mmHg
   RR: 24 (15 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61 kg (admission): 58 kg
   Height: 65 Inch
           Total In:
                                                                    487 mL
                                                                    916 mL
   PO:
           TF:
   IVF:
                                                                     43 mL
                                                                     59 mL
   Blood products:
                                                                    353 mL
                                                                    357 mL
   Total out:
                                                                    470 mL
                                                                  1,080 mL
   Urine:
                                                                    270 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     17 mL
                                                                   -164 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   General Appearance: Thin, elderly, pale, cachectic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   b/l at bases, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   180 K/uL
   12.4 g/dL
   55 mg/dL
   1.8 mg/dL
   19 mEq/L
   4.0 mEq/L
   36 mg/dL
   112 mEq/L
   141 mEq/L
   36.8 %
   14.9 K/uL
        [image002.jpg]
                             [**2128-3-5**]  08:52 PM
                             [**2128-3-6**]  04:59 AM
                             [**2128-3-6**]  12:44 PM
                             [**2128-3-6**]  12:45 PM
                             [**2128-3-10**]  03:00 PM
                             [**2128-3-10**]  05:11 PM
                             [**2128-3-10**]  09:40 PM
                             [**2128-3-11**]  04:33 AM
   WBC
   14.9
   14.0
   14.9
   Hct
   34.7
   33.7
   31.9
   31.4
   29.5
   36.8
   Plt
   114
   105
   180
   Cr
   2.1
   2.1
   1.8
   1.8
   TropT
   2.82
   2.54
   2.27
   1.70
   1.47
   Glucose
   74
   80
   55
   Other labs: PT / PTT / INR:15.9/33.6/1.4, CK / CKMB /
   Troponin-T:21/5/1.47, ALT / AST:[**10-27**], Alk Phos / T Bili:138/1.3,
   Differential-Neuts:88.6 %, Band:Units: %
   Range: 0-5 %, Lymph:7.9 %, Mono:1.1 %, Eos:2.2 %, Lactic Acid:1.0
   mmol/L, Albumin:2.1 g/dL, LDH:197 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.5 mg/dL
   Imaging: [**3-11**] CXR P this AM
   Microbiology: [**3-10**] UCx PND
   [**3-5**] UCx: >100K yeast
   ECG: NSR, old anteroseptal q waves, no acute ST-T changes
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   Most likely lower GI bleed given BRBPR with relative hemodynamic
   stability.  Likely causes include CDiff colitis, diverticulosis, AVM,
   mesenteric
   -          s/p 2 units with appropriate bump in HCT
   -          can monitor HCTs [**Hospital1 **] today
   -          f/u with GI re: ? deferring scope given cardiac
   comorbidities. If rebleeds and now scope, will have to pursue tagged
   RBC study or angioembolization
   -          change PPI to po lansoprazole daily
   -          trend INR. Elevation is thought to be nutritionally related.
   Could give Vitamin K but ? concern re clotting and coronary disease. If
   actively bleeding can consider FFP. Regardless, this INR is not high
   enough to be contributing to his bleeding
Tranfusion mismatch
   -          no evidence of hemolysis or acute renal dysfunction as a
   result
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          CE
s negative x 2, Trop continues to decline. EKGs unchanged
   -          Hold ASA given GIB, continue, nitro patch and statin
   -          Would uptitrate metoprolol today to 62.5mg tid
   -          sL nitro prn
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   -          continue po flagyl x 14 day course (day 1 = [**2-28**])
   -          this is a possible etiology of his persistent leukocytosis
   -          contact precautions
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
   - continue medical CHF management with [**Last Name (un) 239**], BB, nitro patch
   - s/p lasix 40mg x 2 to [**Male First Name (un) 482**] PRBC
   - AM CXR appears much improved from that of [**3-9**]
   - monitor I/Os, daily weights
   - diurese with 40mg IV lasix this AM for goal today -500 to 1000cc
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   - Cr's better than baseline here, continue to trend
 HYPERNATREMIA (HIGH SODIUM)
   -          resolved with free water flushes, can d/c if restarting TFs
 Dirty U/A -  has a foley catheter. U/A from [**3-5**] had yeast, now
   absent from U/A [**3-10**]
   -          will not treat empirically, instead f/u Urine Cx
 DYSPHAGIA
   - GI aware, f/u recs
   - NPO with resumption of TFs when indicated (i.e no GI intervention
   from below)
   - anti-emetics prn
   - aspiration precautions
 HYPERTENSION, BENIGN
 would hold meds in setting of GIB but given
   CAD will continue as tolerated
   -- continue BB and [**Last Name (un) 239**]
   ICU Care
   Nutrition:
   Comments: holding TFs pending possible intervention, otherwise will
   restart per nutrition
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2128-3-9**] 04:44 PM
   18 Gauge - [**2128-3-10**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code, will need to re-address given inability to
   intervene on his GIB
   Disposition:possible callout if stable today

2128-03-11 09:55:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2128-3-11**] 03:53 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   faciall swellin
   Sulfa (Sulfonamides)
   Rash;
   Ciprofloxacin
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2128-3-11**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.3
C (95.6
   HR: 73 (60 - 88) bpm
   BP: 118/68(80){99/56(67) - 162/100(115)} mmHg
   RR: 19 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61 kg (admission): 58 kg
   Height: 65 Inch
           Total In:
                                                                    487 mL
                                                                  1,252 mL
   PO:
           TF:
   IVF:
                                                                     43 mL
                                                                     96 mL
   Blood products:
                                                                    353 mL
                                                                    357 mL
   Total out:
                                                                    470 mL
                                                                  1,600 mL
   Urine:
                                                                    270 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     17 mL
                                                                   -348 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   General Appearance: frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   laterally displaced PMI
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   bilat), (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   180 K/uL
   55 mg/dL
   1.8 mg/dL
   19 mEq/L
   4.0 mEq/L
   36 mg/dL
   112 mEq/L
   141 mEq/L
   36.8 %
   14.9 K/uL
        [image002.jpg]
                             [**2128-3-5**]  08:52 PM
                             [**2128-3-6**]  04:59 AM
                             [**2128-3-6**]  12:44 PM
                             [**2128-3-6**]  12:45 PM
                             [**2128-3-10**]  03:00 PM
                             [**2128-3-10**]  05:11 PM
                             [**2128-3-10**]  09:40 PM
                             [**2128-3-11**]  04:33 AM
   WBC
   14.9
   14.0
   14.9
   Hct
   34.7
   33.7
   31.9
   31.4
   29.5
   36.8
   Plt
   114
   105
   180
   Cr
   2.1
   2.1
   1.8
   1.8
   TropT
   2.82
   2.54
   2.27
   1.70
   1.47
   Glucose
   74
   80
   55
   Other labs: PT / PTT / INR:15.9/33.6/1.4, CK / CKMB /
   Troponin-T:21/5/1.47, ALT / AST:[**10-27**], Alk Phos / T Bili:138/1.3,
   Differential-Neuts:88.6 %, Band:Units: %
   Range: 0-5 %, Lymph:7.9 %, Mono:1.1 %, Eos:2.2 %, Lactic Acid:1.0
   mmol/L, Albumin:2.1 g/dL, LDH:197 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.5 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB) -
   Lower GIB by history. He is a poor candidate for any procedures. If
   bleeding continues, however, will likely need a tagged cell scan and
   possibly angio.
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA) -
   enzymes slowly trending down. Holding ASA due to bleed. Will continue
   to aggressive diurese in an attempt to decrease oxygen consumption.
   Remains on nitro patch. Will continue to aggressively rx CHF as that
   may help
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC - as above;
   continuing to diurese
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPERNATREMIA (HIGH SODIUM) improved with free water
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS - no evidence of
   hemolysis. Will continue to monitor
   Tranfusion mismatch
 DYSPHAGIA
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2128-3-9**] 04:44 PM
   18 Gauge - [**2128-3-10**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code will discuss prognosis in family mtg; he is
   aware of poor prognosis
   Disposition :ICU
   Total time spent:  45
   Patient is critically ill

2128-03-12 07:51:00 Physician Resident Progress Note
Chief Complaint: BRBPR, recent NSTEMI
   24 Hour Events:
   Hct stable despite some more BRBPR
 CHEST PAIN - At [**2128-3-11**] 10:54 AM
   -- EKG unchanged, resolved with nitro and morphine
   Needed some IV fluids for hypotension in AM. Missed dose of metoprolol
   and had to back off down to 50 TID b/c of hypotension
 CHEST PAIN - At [**2128-3-12**] 12:16 AM
   describes as chest tightness, unable to catch his breath.  SL NTG x 2
   and 1mg iv morphine with eventual resolution of pain
 EKG - At [**2128-3-12**] 01:00 AM
   Also yesterday,. spoke with wife, grandson, and patient about
   difficulties caring for patient
   Patient states he wants to go home; understands that this means less
   aggressive care
   Palliative care coming by in AM; they need to call grandson on his cell
   phone after meeting with patient
   SUBJ:
   pt sleeping comfortably this AM, no c/o CP or SOB. No recent BRBPR that
   he is aware of
   Allergies:
   Penicillins
   faciall swellin
   Sulfa (Sulfonamides)
   Rash;
   Ciprofloxacin
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2128-3-11**] 09:26 PM
   Morphine Sulfate - [**2128-3-12**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2128-3-12**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 69 (60 - 89) bpm
   BP: 112/60(73){85/13(40) - 125/76(89)} mmHg
   RR: 22 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61 kg (admission): 58 kg
   Height: 65 Inch
             Total In:
                                                                  1,762 mL
                                                                    185 mL
   PO:
             TF:
             108 mL
   IVF:
                                                                    491 mL
                                                                     76 mL
   Blood products:
                                                                    357 mL
   Total out:
                                                                  2,345 mL
                                                                    150 mL
   Urine:
                                                                  2,345 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -583 mL
                                                                     35 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin, cahcectic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube,
   oropharynx unchanged
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Diminished: at bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, 2+ LE to ankle, also w b/l hand edema
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   200 K/uL
   11.1 g/dL
   66 mg/dL
   1.9 mg/dL
   21 mEq/L
   3.7 mEq/L
   40 mg/dL
   113 mEq/L
   141 mEq/L
   34.0 %
   12.9 K/uL
        [image002.jpg]
                             [**2128-3-6**]  04:59 AM
                             [**2128-3-6**]  12:44 PM
                             [**2128-3-6**]  12:45 PM
                             [**2128-3-10**]  03:00 PM
                             [**2128-3-10**]  05:11 PM
                             [**2128-3-10**]  09:40 PM
                             [**2128-3-11**]  04:33 AM
                             [**2128-3-11**]  12:04 PM
                             [**2128-3-11**]  05:18 PM
                             [**2128-3-12**]  05:28 AM
   WBC
   14.0
   14.9
   12.9
   Hct
   33.7
   31.9
   31.4
   29.5
   36.8
   34.0
   33.9
   34.0
   Plt
   105
   180
   200
   Cr
   2.1
   1.8
   1.8
   1.9
   1.9
   TropT
   2.54
   2.27
   1.70
   1.47
   Glucose
   80
   55
   50
   66
   Other labs: PT / PTT / INR:16.1/35.2/1.4, CK / CKMB /
   Troponin-T:21/5/1.47, ALT / AST:[**10-27**], Alk Phos / T Bili:138/1.3,
   Differential-Neuts:88.6 %, Band:Units: %
   Range: 0-5 %, Lymph:7.9 %, Mono:1.1 %, Eos:2.2 %, Lactic Acid:1.0
   mmol/L, Albumin:2.1 g/dL, LDH:197 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.3 mg/dL
   Imaging: [**3-12**] CXR PND
   .
   [**3-11**]
   IMPRESSION:  Minimal reduction in signs suggestive of central
   cardiogenic
   edema, otherwise unchanged.
   Microbiology: [**2128-3-10**] 9:54 am URINE      Source: Catheter.
                               **FINAL REPORT [**2128-3-11**]**
      URINE CULTURE (Final [**2128-3-11**]):
         YEAST.    10,000-100,000 ORGANISMS/ML..
   ECG: 1AM on[**3-12**] : prior anteroseptal infarct, no acute changes seen
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   -          check PM HCT today
   -          GI: no plans to scope given cardiac status. Further invasive
   procedures (eg angio) are NOT c/w this patients wishes
   -          Maintain dual access with PICC and EJ
   -          Cont daily PPI
   -          Trend INR, keep below 1.5
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
   -          no further enzyme checks as continues to trend downwards
   -          continue beta blocker as tolerated
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
   -          continue BB, [**Last Name (un) 239**], and prn lasix and morphine as tolerated by
   BP (borderline hypotensive)
   -          would continue to diurese if possible -500 cc today
   -          monitor I/Os, daily weights
   -          f/u CXR for resolution of pulm edema
 appears largely
   unchanged
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          no ASA. Continue BB, statin, supplemental O2. Increase NTG
   patch to 0.6 mg/hr
 Hypoglycemia
 serum glucose was 66 this AM, 50
s yesterday, and FSG
   this AM was 29. Responded to 1amp of D50
   -          maintain continuous TFs, as may not be able to mobilize
   glycogen stores effectively [**3-13**] h/o EtOH abuse
   -          per pharmacy not on any culprit hypoglycemia-inducing meds
   -          check FSG qid
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   -          continue po flagyl x 14 day course (day 1 = [**2-28**]), d/c
   tomorrow
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   -          trend Cr, stable below baseline
 Yeast in Urine
 10-100K, pt not c/o dysuria and is not
   immunosuppressed, will defer tx at this time
 HYPERNATREMIA (HIGH SODIUM) - resolved
 DYSPHAGIA
   -          continue NPO and feeds via NGT
   -          consider Dobhoff tube vs. simply d/cing NGT prior to d/c. Pt
   aware of consequences of possible aspiration
   -          maintain aspiration precautions
 HYPERTENSION, BENIGN
 not active
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2128-3-12**] 01:28 AM 25 mL/hour
   Comments: tube feeds on
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2128-3-9**] 04:44 PM
   18 Gauge - [**2128-3-10**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: per discussion with patient, now DNR/DNI
   Disposition: appreciate pall care input re : home or [**Hospital 554**] hospice care

2128-03-12 10:03:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Family discussion - goal is to return home without further
   interventions
   24 Hour Events:
 CHEST PAIN - At [**2128-3-11**] 10:54 AM
 CHEST PAIN - At [**2128-3-12**] 12:16 AM
   describes as chest tightness, unable to catch his breath, NTG given x1
 EKG - At [**2128-3-12**] 01:00 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   faciall swellin
   Sulfa (Sulfonamides)
   Rash;
   Ciprofloxacin
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2128-3-12**] 01:00 AM
   Dextrose 50% - [**2128-3-12**] 08:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: BRB PR this am
   Endocrine: Hypoglycemia
   Signs or concerns for abuse
   Flowsheet Data as of  [**2128-3-12**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.6
   HR: 65 (60 - 89) bpm
   BP: 92/44(56){85/13(40) - 134/75(87)} mmHg
   RR: 14 (12 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61 kg (admission): 58 kg
   Height: 65 Inch
             Total In:
                                                                  1,762 mL
                                                                    332 mL
   PO:
             TF:
             185 mL
   IVF:
                                                                    491 mL
                                                                     97 mL
   Blood products:
                                                                    357 mL
   Total out:
                                                                  2,345 mL
                                                                    195 mL
   Urine:
                                                                  2,345 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -583 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: Frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Bilat mid late insp)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   200 K/uL
   193 mg/dL
   1.9 mg/dL
   21 mEq/L
   3.7 mEq/L
   40 mg/dL
   113 mEq/L
   141 mEq/L
   34.0 %
   12.9 K/uL
        [image002.jpg]
                             [**2128-3-6**]  12:44 PM
                             [**2128-3-6**]  12:45 PM
                             [**2128-3-10**]  03:00 PM
                             [**2128-3-10**]  05:11 PM
                             [**2128-3-10**]  09:40 PM
                             [**2128-3-11**]  04:33 AM
                             [**2128-3-11**]  12:04 PM
                             [**2128-3-11**]  05:18 PM
                             [**2128-3-12**]  05:28 AM
                             [**2128-3-12**]  08:38 AM
   WBC
   14.9
   12.9
   Hct
   31.9
   31.4
   29.5
   36.8
   34.0
   33.9
   34.0
   Plt
   180
   200
   Cr
   1.8
   1.8
   1.9
   1.9
   TropT
   2.27
   1.70
   1.47
   Glucose
   55
   50
   66
   193
   Other labs: PT / PTT / INR:16.1/35.2/1.4, CK / CKMB /
   Troponin-T:21/5/1.47, ALT / AST:[**10-27**], Alk Phos / T Bili:138/1.3,
   Differential-Neuts:88.6 %, Band:Units: %
   Range: 0-5 %, Lymph:7.9 %, Mono:1.1 %, Eos:2.2 %, Lactic Acid:1.0
   mmol/L, Albumin:2.1 g/dL, LDH:197 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB) -
   continuing to bleed. Diverticular bleed still seems most likely. Can
   not tolerate colonoscopy or angio w/o intubation. Continuing to monitor
   hct and maintain > 30
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA) -
   some episodes of CP with movement likely not cardiac.  Troponin
   trending down. Remains on beta blocker. Will increase nitrates
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   - remains on metronidazole for 14 d course
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC - continuing to try
   to diurese. Goal is 0.5 - 1.0L neg today
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPERNATREMIA (HIGH SODIUM) - now 141
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Tranfusion mismatch
 DYSPHAGIA - plan for either palliative care (removal of NG) or
   feeding tube tomorrow
 HYPERTENSION, BENIGN
   HYPOGLYCEMIA - [**Last Name **] problem. Got D50 this am.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2128-3-12**] 01:28 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2128-3-9**] 04:44 PM
   18 Gauge - [**2128-3-10**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code - headed to palliative care
   Disposition :D/C Home if possible with hospice
   Total time spent:  35
   Patient is critically ill

2128-03-13 07:37:00 Physician Resident Progress Note
Chief Complaint: BRBPR, NSTEMI
   24 Hour Events:
 CHEST PAIN - At [**2128-3-12**] 11:10 AM
   Pall Care spoke with patient's grandson. code status changed to DNR,
   plan to go home with hospice Monday when set up.
   medications reviewed with pharmacy, no clear suspects to explain
   hypoglycemia
   no endoscopy plans with GI
   diuresed with lasix, 40mg IV given at 11PM
   Allergies:
   Penicillins
   faciall swellin
   Sulfa (Sulfonamides)
   Rash;
   Ciprofloxacin
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2128-3-12**] 08:33 AM
   Furosemide (Lasix) - [**2128-3-13**] 12:00 AM
   Morphine Sulfate - [**2128-3-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-3-13**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 103 (65 - 103) bpm
   BP: 133/69(86){92/44(56) - 134/69(86)} mmHg
   RR: 19 (12 - 25) insp/min
   SpO2: 94% on 6L NC
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61 kg (admission): 58 kg
   Height: 65 Inch
             Total In:
                                                                  1,346 mL
                                                                    238 mL
   PO:
             TF:
                                                                    836 mL
                                                                    164 mL
   IVF:
                                                                    240 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                    840 mL
   Urine:
                                                                    680 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    666 mL
                                                                   -602 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94% on 6L NC
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Well nourished, Thin, pale, frai,l and
   cachectic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, NG tube
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : improved,  trace, Diminished: b/l bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, b/l hand edema
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   186 K/uL
   11.3 g/dL
   119 mg/dL
   1.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   42 mg/dL
   116 mEq/L
   148 mEq/L
   32.7 %
   14.7 K/uL
        [image002.jpg]
                             [**2128-3-10**]  05:11 PM
                             [**2128-3-10**]  09:40 PM
                             [**2128-3-11**]  04:33 AM
                             [**2128-3-11**]  12:04 PM
                             [**2128-3-11**]  05:18 PM
                             [**2128-3-12**]  05:28 AM
                             [**2128-3-12**]  08:38 AM
                             [**2128-3-12**]  10:12 AM
                             [**2128-3-12**]  05:13 PM
                             [**2128-3-13**]  05:44 AM
   WBC
   14.9
   12.9
   14.7
   Hct
   31.4
   29.5
   36.8
   34.0
   33.9
   34.0
   31.6
   32.3
   32.7
   Plt
   180
   200
   186
   Cr
   1.8
   1.8
   1.9
   1.9
   1.9
   1.8
   TropT
   1.47
   Glucose
   55
   50
   66
   193
   112
   119
   Other labs: PT / PTT / INR:15.1/32.8/1.3, CK / CKMB /
   Troponin-T:21/5/1.47, ALT / AST:[**10-27**], Alk Phos / T Bili:138/1.3,
   Differential-Neuts:88.6 %, Band:Units: %
   Range: 0-5 %, Lymph:7.9 %, Mono:1.1 %, Eos:2.2 %, Lactic Acid:1.0
   mmol/L, Albumin:2.1 g/dL, LDH:197 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.4 mg/dL
   Imaging: [**3-12**] CXR
   IMPRESSION:  Interval improvement in interstitial edema, and moderate
   bilateral pleural effusion.
   Microbiology: none new
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   -          check [**Hospital1 **] HCT today, stable so far despite periodic BRBPR
   -          GI: no plans to scope given cardiac status. Further invasive
   procedures (eg angio) are NOT c/w this patients wishes
   -          Maintain dual access with PICC and EJ
   -          Cont daily PPI
   -          Trend INR, keep below 1.5
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
 continued to
   improve on CXR from [**3-12**]
   -          continue BB, [**Last Name (un) 239**] (avapro), prn lasix and morphine as
   tolerated by BP
   -          would continue to diurese if possible -500- 1000cc today
   -          monitor I/Os, daily weights
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
   s/p NSTEMI on [**2-28**]
   -          no further enzyme checks as continues to trend downwards
   -          continue beta blocker as tolerated. No ASA
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          no ASA. Continue BB, statin.
   -          NTG patch at 0.6 mg/hr with good effect
 Hypoglycemia
 resolved, none this AM
   -          maintain continuous TFs, as may not be able to mobilize
   glycogen stores effectively [**3-13**] h/o EtOH abuse
   -          per pharmacy not on any culprit hypoglycemia-inducing meds
   -          check FSG qid
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   -          continue po flagyl x 14 day course (day 1 = [**2-28**]), d/c today
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   -          trend Cr, stable below baseline
 Yeast in Urine
 10-100K, pt not c/o dysuria and is not
   immunosuppressed, will defer tx at this time
 HYPERNATREMIA (HIGH SODIUM)
 recurred
   -          begin FW flushes via NGT, 250cc q6h\
 DYSPHAGIA
   -          continue NPO and feeds via NGT
   -          consider Dobhoff tube vs. simply d/cing NGT prior to d/c. Pt
   aware of consequences of possible aspiration
   -          maintain aspiration precautions
 HYPERTENSION, BENIGN
 not active
   ICU Care
   Nutrition:
   Comments: continued NGT feeds
   Glycemic Control:  Blood sugar well controlled, Comments: no insulin,
   hypoglycemia appears resolved
   Lines:
   PICC Line - [**2128-3-9**] 04:44 PM
   18 Gauge - [**2128-3-10**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to rehab / long term care facility

2128-03-13 11:33:00 Physician Attending Progress Note
Chief Complaint: GIB, sepsis, C.Diff
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yo man who presented to OSH with septic shock, C.Diff, c/b NSTEMI,
   heparin drip, then developed BRBRP, large [**Hospital 592**] transferred to [**Hospital Unit Name 44**] on
   [**3-5**].   Improved went to floor.  Where he triggered for pulmonary edema
   next day had large BRBPR and trasnferred back to [**Hospital Unit Name 44**].  Has had a few
   expisodes of BRBPR but stable Hct.  Intermitted CP and SOB responded to
   s/l NTG and morphine.  GI feels colonoscopy is high risk.  He not feels
   he doesn't want agressive care and wants DNI/DNR with plan to set up
   home hospice.
   24 Hour Events:
 CHEST PAIN - At [**2128-3-12**] 11:10 AM
   Overnight was hypoglycemic to 29.  Has not been getting insulin.
   Diuresed overnight.
   NTG patch up titrated.
   Allergies:
   Penicillins
   faciall swellin
   Sulfa (Sulfonamides)
   Rash;
   Ciprofloxacin
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2128-3-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2128-3-13**] 12:00 AM
   Lansoprazole (Prevacid) - [**2128-3-13**] 08:00 AM
   Morphine Sulfate - [**2128-3-13**] 09:10 AM
   Other medications:
   wellbutrin
   avapro
   simvastatin
   lopressor
   NTG patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Is awake, answers questions
   No HOTN, No SOB.   Still hypoxemic
   Flowsheet Data as of  [**2128-3-13**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 97 (66 - 116) bpm
   BP: 95/51(61){81/30(43) - 142/81(97)} mmHg
   RR: 22 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.7 kg (admission): 58 kg
   Height: 65 Inch
             Total In:
                                                                  1,346 mL
                                                                    715 mL
   PO:
             TF:
                                                                    836 mL
                                                                    503 mL
   IVF:
                                                                    240 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                  1,268 mL
   Urine:
                                                                    680 mL
                                                                  1,268 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    666 mL
                                                                   -553 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Diminished:
   bases)
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   186 K/uL
   119 mg/dL
   1.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   42 mg/dL
   116 mEq/L
   148 mEq/L
   32.7 %
   14.7 K/uL
        [image002.jpg]
                             [**2128-3-10**]  05:11 PM
                             [**2128-3-10**]  09:40 PM
                             [**2128-3-11**]  04:33 AM
                             [**2128-3-11**]  12:04 PM
                             [**2128-3-11**]  05:18 PM
                             [**2128-3-12**]  05:28 AM
                             [**2128-3-12**]  08:38 AM
                             [**2128-3-12**]  10:12 AM
                             [**2128-3-12**]  05:13 PM
                             [**2128-3-13**]  05:44 AM
   WBC
   14.9
   12.9
   14.7
   Hct
   31.4
   29.5
   36.8
   34.0
   33.9
   34.0
   31.6
   32.3
   32.7
   Plt
   180
   200
   186
   Cr
   1.8
   1.8
   1.9
   1.9
   1.9
   1.8
   TropT
   1.47
   Glucose
   55
   50
   66
   193
   112
   119
   Other labs: PT / PTT / INR:15.1/32.8/1.3, CK / CKMB /
   Troponin-T:21/5/1.47, ALT / AST:[**10-27**], Alk Phos / T Bili:138/1.3,
   Differential-Neuts:88.6 %, Band:Units: %
   Range: 0-5 %, Lymph:7.9 %, Mono:1.1 %, Eos:2.2 %, Lactic Acid:1.0
   mmol/L, Albumin:2.1 g/dL, LDH:197 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.4 mg/dL
   Imaging: CXR: yesterday with improved edema
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   Hct stable, no BRBPR overnight.
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
   Intermittent CP, responded to s/l NTG
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)  Holding ASA,
   but continue NTG and lopressor.
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)  Completed 14d course of flagyl.
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC.  Trying gentle
   diuresis to reduce pulmonary edema.  Limited BP.
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPERNATREMIA (HIGH SODIUM)  Free water through NGT.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Tranfusion mismatch
 DYSPHAGIA  NPO on TFs
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2128-3-13**] 08:09 AM 45 mL/hour
   Glycemic Control:  Blood sugar well controlled, Comments: Hypoglycemic
   Lines:
   PICC Line - [**2128-3-9**] 04:44 PM
   18 Gauge - [**2128-3-10**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :  ICU
   Total time spent: 35 minutes

2128-03-14 07:30:00 Physician Resident Progress Note
Chief Complaint: BRBPR, NSTEMI
   24 Hour Events:
 CHEST PAIN - At [**2128-3-13**] 09:01 AM
 CHEST PAIN - At [**2128-3-13**] 04:33 PM
   - got 250cc bolus in AM for SBP in 80s
   - Initiated free H20 flushes via NGT for hypernatremia but PM Na still
   elevated, continued flushes
   - had additional episode of BRBPR in afternoon, PM HCT 29, so
   transfused 1 unit, chased with lasix
   - c/o SOB frequently, rpt EKG with some ST depression and T flattening.
   Given mophine, nitro, and eventually low dose oral ativan
   - became tachycardic shortly after 3am, sinus tachycardia worsening
   through night
   - on telemetry, had PVCs and episodes of ventricular trigeminy in AM
   [**3-13**]
   - requiring suctioning q15 minutes
   Allergies:
   Penicillins
   faciall swellin
   Sulfa (Sulfonamides)
   Rash;
   Ciprofloxacin
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2128-3-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2128-3-13**] 08:00 AM
   Morphine Sulfate - [**2128-3-13**] 04:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Chest pain, substernal
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2128-3-14**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.5
   HR: 110 (77 - 116) bpm
   BP: 114/64(78){81/30(43) - 142/81(97)} mmHg
   RR: 14 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.7 kg (admission): 58 kg
   Height: 65 Inch
           Total In:
                                                                  2,744 mL
                                                                  1,020 mL
   PO:
           TF:
                                                                  1,324 mL
                                                                    330 mL
   IVF:
                                                                    490 mL
                                                                     71 mL
   Blood products:
                                                                    210 mL
                                                                     69 mL
   Total out:
                                                                  1,798 mL
                                                                    890 mL
   Urine:
                                                                  1,798 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    946 mL
                                                                    131 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: cachectic, pale
   Eyes / Conjunctiva: pupils equal
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), regular, tachycardic, no
   murmur appreciated
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ), very coarse BS throughout with good air movement
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Pneumoboots in place; UE with some edema but not in LE,
   cool extremities
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   138 K/uL
   11.3 g/dL
   104 mg/dL
   1.7 mg/dL
   25 mEq/L
   3.8 mEq/L
   45 mg/dL
   117 mEq/L
   148 mEq/L
   33.9 %
   12.2 K/uL
        [image002.jpg]
                             [**2128-3-11**]  04:33 AM
                             [**2128-3-11**]  12:04 PM
                             [**2128-3-11**]  05:18 PM
                             [**2128-3-12**]  05:28 AM
                             [**2128-3-12**]  08:38 AM
                             [**2128-3-12**]  10:12 AM
                             [**2128-3-12**]  05:13 PM
                             [**2128-3-13**]  05:44 AM
                             [**2128-3-13**]  06:55 PM
                             [**2128-3-14**]  04:47 AM
   WBC
   14.9
   12.9
   14.7
   12.2
   Hct
   36.8
   34.0
   33.9
   34.0
   31.6
   32.3
   32.7
   29.8
   33.9
   Plt
   180
   200
   186
   138
   Cr
   1.8
   1.9
   1.9
   1.9
   1.8
   1.7
   TropT
   1.47
   Glucose
   55
   50
   66
   193
   112
   119
   104
   Other labs: PT / PTT / INR:15.0/33.6/1.3, CK / CKMB /
   Troponin-T:21/5/1.47, ALT / AST:[**10-27**], Alk Phos / T Bili:138/1.3,
   Differential-Neuts:88.6 %, Band:Units: %
   Range: 0-5 %, Lymph:7.9 %, Mono:1.1 %, Eos:2.2 %, Lactic Acid:1.0
   mmol/L, Albumin:2.1 g/dL, LDH:197 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   81yo man with ongoing GI bleed and NSTEMI [**2-28**].
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   -          continue to follow Hct [**Hospital1 **] and transfuse for Hct < 30
   -          not a candidate for colonoscopy or angiography given cardiac
   status and patient
s wishes
   -          continue PPI
   -          follow INR; goal INR < 1.5
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
   -          patient had NSTEMI [**2-28**] at OSH
   -          no longer trending enzymes as had been trending down
   -          EKG continues to show ischemic changes
   -          Continue beta blocker as tolerated by BP; not on ASA or
   plavix; not a candidate for heparin b/c of bleed
   -          Continue morphine for pain control
   -          Continue statin and NTG patch and SL NTG
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          treat ACS as above
   # Tachycardia:
   - ? pain
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE):
   -          s/p 14 days of po flagyl
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
   -          on beta blocker, [**Last Name (un) 239**], and lasix prn
   -          +1L yesterday with improvement in Cr
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   -          Cr improving at 1.7; baseline is 2.5
 HYPERNATREMIA (HIGH SODIUM):
   - has not responded to free water flushes at 250cc q4h
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Tranfusion mismatch
 DYSPHAGIA:
   -          patient has NG tube and is currently NPO
   -          upon discharge, will need to discuss Dobhoff vs allowing the
   patient to eat despite aspiration risk
 HYPERTENSION, BENIGN
not currently active
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2128-3-14**] 12:15 AM 44.[**Telephone/Fax (3) 606**] mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2128-3-9**] 04:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU until hospice arranged ; appreciate case management
   help with referral to hospice of [**Location (un) 564**]

2128-03-14 11:33:00 Physician Attending Progress Note
Chief Complaint: GIB, recent NSTEMI
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CHEST PAIN - At [**2128-3-13**] 09:01 AM
 CHEST PAIN - At [**2128-3-13**] 04:33 PM
   Continued low SBP to 80s, got IVF boluses.
   Na still high despite 148.
   Hct stable after 1U PRBC
   requiring frequent deep suctioning.
   Allergies:
   Penicillins
   faciall swellin
   Sulfa (Sulfonamides)
   Rash;
   Ciprofloxacin
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2128-3-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2128-3-13**] 04:34 PM
   Other medications:
   Off PO meds.
   NTG patch
   Fentanyl patch.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, Tachypnea
   Flowsheet Data as of  [**2128-3-14**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 104 (77 - 113) bpm
   BP: 117/63(76){86/42(52) - 124/66(79)} mmHg
   RR: 21 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.7 kg (admission): 58 kg
   Height: 65 Inch
           Total In:
                                                                  2,744 mL
                                                                  1,166 mL
   PO:
           TF:
                                                                  1,324 mL
                                                                    375 mL
   IVF:
                                                                    490 mL
                                                                    112 mL
   Blood products:
                                                                    210 mL
                                                                     69 mL
   Total out:
                                                                  1,798 mL
                                                                    990 mL
   Urine:
                                                                  1,798 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    946 mL
                                                                    176 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: diffusely)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, Upper Extremites more edematous
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   138 K/uL
   104 mg/dL
   1.7 mg/dL
   25 mEq/L
   3.8 mEq/L
   45 mg/dL
   117 mEq/L
   148 mEq/L
   33.9 %
   12.2 K/uL
        [image002.jpg]
                             [**2128-3-11**]  04:33 AM
                             [**2128-3-11**]  12:04 PM
                             [**2128-3-11**]  05:18 PM
                             [**2128-3-12**]  05:28 AM
                             [**2128-3-12**]  08:38 AM
                             [**2128-3-12**]  10:12 AM
                             [**2128-3-12**]  05:13 PM
                             [**2128-3-13**]  05:44 AM
                             [**2128-3-13**]  06:55 PM
                             [**2128-3-14**]  04:47 AM
   WBC
   14.9
   12.9
   14.7
   12.2
   Hct
   36.8
   34.0
   33.9
   34.0
   31.6
   32.3
   32.7
   29.8
   33.9
   Plt
   180
   200
   186
   138
   Cr
   1.8
   1.9
   1.9
   1.9
   1.8
   1.7
   TropT
   1.47
   Glucose
   55
   50
   66
   193
   112
   119
   104
   Other labs: PT / PTT / INR:15.0/33.6/1.3, CK / CKMB /
   Troponin-T:21/5/1.47, ALT / AST:[**10-27**], Alk Phos / T Bili:138/1.3,
   Differential-Neuts:88.6 %, Band:Units: %
   Range: 0-5 %, Lymph:7.9 %, Mono:1.1 %, Eos:2.2 %, Lactic Acid:1.0
   mmol/L, Albumin:2.1 g/dL, LDH:197 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPERNATREMIA (HIGH SODIUM)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Tranfusion mismatch
 DYSPHAGIA
 HYPERTENSION, BENIGN
   Overall looks much worse today with increasing SOB, increasing
   secretions, seems very uncomfortable.
   Will discuss with family that he likely will not make it home.
   Have called family in and will discuss shifting goals of care to
   comfort measures only.
   Discussed with patient and he feels that he would want to be just kept
   comfortable.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2128-3-9**] 04:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes